US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(-)-histidine
The manufacture took place from D-glucose and L-(-)-histidine using palladium/activated carbon (10%) as a catalyst and yielded a product having a melting point of 165° to 170° C. (decomposition).

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(-)-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
catalyst | palladium | [Pd] | Pd
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(-)-histidine | OC(CN[C@@H](CC1=CNC=N1)C(=O)O)C(C(C(CO)O)O)O | C12H21N3O7
